US05260316
A solution of m-bromophenethylamine (6.71 g, 33.55 mmol) and Et3N (7 mL, 50.32 mmoL) in CH2Cl2 (100 mL) is cooled to 0° and ethyl chloroformate (4 mL, 50.32 mmoL) is added. After addition is complete the resulting mixture is allowed to come to room temperature and the solvent is removed in vacuo. The residue is then dissolved in EtOAc (200 mL) and the organic phase washed with 2N HCl (1×250 mL), H2O (1×200 mL), saturated NaHCO3 solution (1×200 mL), saturated NaCl solution (1×200 mL), dried over MgSO4 and concentrated in vacuo to give N-ethoxycarbonyl-m-bromophenethylamine.

reactant | m-bromophenethylamine | 33.55 mmol, 6.71 g | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | Et3N | 7 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 4 mL | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-ethoxycarbonyl-m-bromophenethylamine | C(C)OC(=O)NCCC1=CC(=CC=C1)Br | C11H14BrNO2
